Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Left Arm Pain, Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Pt is a ___ yo ___ man w/ no known PMH but does not 
follow up with a doctor/does not have a PCP who ___ syncopal 
event w/ L arm fracture. Per history taken in ED w/ assistance 
of pt's daughter and son as ___, pt had a drop syncope 
event, no prodromal state, no preceeding LH/dizziness no CP, and 
passed out today, falling on L arm, awoke w/out any post-ictal 
state. Pt reports multiple syncopal events over past year, 
including 1 approximately ___ year ago, similar drop event where 
he broke his nose. Per son, was seen by doctor that dx him with 
an "arrythmia" at that time. No other information about that at 
this time.  
ROS: Pt otherwise denies any CP, SOB. Does report progressive 
weight loss over past couple months, increased weakness.  
In ED pt AVSS. Labs demonstrate slightly elevated Trop 0.02, CK 
218, other labs fairly normal. Plain films of L arm demonstrate 
commminuted fx of humerus. Ortho notified and recommended sling 
and admit to medicine w/ ortho following. Did not recommend any 
surgical intervention.  
Currently pt appears comfortable. Denies any pain  

 
Past Medical History:
unknown/none (given pt does not see physician) 
 
Social History:
___
Family History:
NC
 
Physical Exam:
Vitals - T 96.1, HR 76, BP 102/50, RR 18, O2 99% RA  
Gen - awake, alert, NAD, very well appearing.  
HEENT - MMM, no elevated JVP  
___ - RRR, no noted m/r/g  
Lungs - CTA b/l  
Abd - soft, NT/ND  
Ext - no ___ edema b/l. L arm in sling w/ large eccymoses in 
upper arm extending to forearm to edge of hand. More distally 
looks slightly erythematous, but non-warm, non-tender to 
palpation. Able to move elbow w/out discomfort, + discomfort w/ 
moving shoulder joint.  

 
Pertinent Results:
HEMATOLOGY
___ 06:10PM BLOOD WBC-7.8 RBC-3.97* Hgb-12.4* Hct-36.1* 
MCV-91 MCH-31.2 MCHC-34.3 RDW-13.7 Plt ___
___ 05:33AM BLOOD WBC-4.1 RBC-3.29* Hgb-10.2* Hct-30.0* 
MCV-91 MCH-30.9 MCHC-33.9 RDW-14.1 Plt ___
___ 05:00AM BLOOD WBC-4.9 RBC-3.33* Hgb-10.3* Hct-30.2* 
MCV-91 MCH-31.0 MCHC-34.1 RDW-14.3 Plt ___

COAGULATION
___ 05:28AM BLOOD ___ PTT-29.6 ___
___ 07:25AM BLOOD ___ PTT-28.6 ___
___ 05:00AM BLOOD ___ PTT-27.3 ___

CHEMISTRY
___ 06:10PM BLOOD Glucose-95 UreaN-23* Creat-1.2 Na-136 
K-4.2 Cl-102 HCO3-25 AnGap-13
___ 05:33AM BLOOD Glucose-83 UreaN-23* Creat-1.0 Na-137 
K-4.1 Cl-104 HCO3-26 AnGap-11
___ 05:28AM BLOOD Glucose-92 UreaN-28* Creat-1.1 Na-132* 
K-4.1 Cl-101 HCO3-26 AnGap-9
___ 07:25AM BLOOD Glucose-86 UreaN-25* Creat-1.0 Na-135 
K-4.6 Cl-104 HCO3-25 AnGap-11
___ 05:00AM BLOOD Glucose-90 UreaN-26* Creat-1.0 Na-133 
K-4.5 Cl-104 HCO3-23 AnGap-11

CARDIAC
___ 06:10PM BLOOD CK(CPK)-218* CK-MB-5 cTropnT-0.02*
___ 05:33AM BLOOD CK(CPK)-136  CK-MB-5 cTropnT-0.02*
___ 04:55PM BLOOD CK(CPK)-107  CK-MB-4 cTropnT-0.01

LIVER/BILI
___ 05:28AM BLOOD ALT-31 AST-55* AlkPhos-231* TotBili-1.9*
___ 07:25AM BLOOD TotBili-1.8* DirBili-1.0* IndBili-0.8
___ 05:00AM BLOOD TotBili-2.0* DirBili-1.0* IndBili-1.0

___ 05:33AM BLOOD Calcium-8.8 Phos-3.2 Mg-1.9
___ 05:28AM BLOOD Albumin-3.1* Calcium-8.7 Phos-3.2 Mg-2.0 
Iron-66 Cholest-135
___ 07:25AM BLOOD Calcium-8.8 Phos-2.8 Mg-2.0
___ 05:00AM BLOOD Calcium-8.9 Phos-3.0 Mg-2.0

IRON STUDIES
___ 05:28AM BLOOD calTIBC-251* Ferritn-318 TRF-193*
___ 05:00AM BLOOD VitB12-610 Folate-5.9

LIPIDS
___ 05:28AM BLOOD Triglyc-57 HDL-40 CHOL/HD-3.4 LDLcalc-84

ENDOCRINE
___ 05:00AM BLOOD TSH-1.5

SHOULDER XRAY
FINDINGS: There is a comminuted fracture of the surgical neck of 
the humerus with an extension to the greater tuberosity. At 
least three major fracture fragments are identified, however no 
significant displacement or angulation is noted. Underlying 
degenerative changes at the glenohumeral joint are present as 
well. The humeral head remains appropriately located within the 
glenoid fossa. The acromioclavicular joint is unremarkable. The 
more distal humerus is intact and the elbow joint is grossly 
appropriately aligned. The visualized adjacent lung is clear.

IMPRESSION: Comminuted at least three-part fracture of the 
proximal humerus with no significant displacement or angulation 
of fracture fragments.

CHEST XRAY
FINDINGS: There is no consolidation or superimposed edema. A 
small right pleural effusion is evident. The aorta is tortuous. 
The cardiac silhouette is enlarged. No pneumothorax is seen. 
Fracture of the proximal humerus on the left is incompletely 
evaluated, but details further on the accompanying left shoulder 
radiographs. No displaced fractures of the ribs or other 
thoracic structures noted.

IMPRESSION: Small right pleural effusion with underlying 
cardiomegaly and no acute pulmonary process. Left humeral 
fracture detail on accompanying left shoulder radiographs.

HEAD CT
FINDINGS: There is no evidence of hemorrhage, edema, or mass 
effect. There is marked prominence of the ventricles and sulci, 
which is consistent with age-related involutional change. There 
is no evidence on this non-contrast study of acute vascular 
territorial infarct. Atherosclerotic calcification which is 
moderate-to-severe is noted within the cavernous internal 
carotid arteries bilaterally. The visualized paranasal sinuses 
and mastoid air cells are clear. Peripheral calcifications of 
the lenses are noted.

IMPRESSION: No hemorrhage or mass effect.

LENIS
FINDINGS: Duplex evaluation was performed of the right lower 
extremity veins. There is normal compression and augmentation of 
the common femoral, superficial femoral, popliteal, posterior 
tibial, and peroneal veins. There is normal phasicity of the 
common femoral veins bilaterally.

IMPRESSION: No evidence of right lower extremity deep vein 
thrombosis.

ABDOMINAL ULTRASOUND
FINDINGS: Please note, decubitus positioning was unobtainable 
due to patient's left arm pain. The liver is course and 
heterogeneous. No liver focal masses are detected. The portal 
vein is patent, and there is normal hepatopetal flow. The 
visualized portion of the gallbladder is unremarkable. There are 
no gallbladder stones detected. There is a small right pleural 
effusion. The common bile duct is not dilated and measures 
approximately 2.5 mm. The pancreas is not well visualized. The 
left kidney measures approximately 7.4 cm and contains an 
approximately 2-cm simple cyst. The right kidney measures 
approximately 8.5 cm. There is no evidence of hydronephrosis or 
stones in either kidney. The spleen measures approximately 8.7 
cm and is unremarkable. The imaged portion of the aorta is of 
normal caliber throughout.

IMPRESSION: Coarse heterogeneous liver with no focal masses 
detected. Otherwise, normal abdominal ultrasound.

ECHOCARDIOGRAM
The left atrium is mildly dilated. The right atrium is markedly 
dilated. The estimated right atrial pressure is ___. There 
is an inferobasal left ventricular aneurysm. Overall left 
ventricular ejection fraction is normal (LVEF 60%); however, an 
inferobasal aneurysm is present. The right ventricular cavity is 
dilated with depressed free wall contractility. There is 
abnormal diastolic septal motion/position consistent with right 
ventricular volume overload. There are focal calcifications in 
the aortic arch. The aortic valve leaflets are moderately 
thickened. There is mild aortic valve stenosis. Trace aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. Moderate (2+) 
mitral regurgitation is seen. The tricuspid valve leaflets are 
mildly thickened. Severe [4+] tricuspid regurgitation is seen. 
There is moderate pulmonary artery systolic hypertension. The 
main pulmonary artery is dilated. The branch pulmonary arteries 
are dilated. There is no pericardial effusion.  

 
Brief Hospital Course:
SYNCOPE / FALLS
The patient's history was suspicious for a cardiac source of 
syncope. He was ruled out for MI. He was monitored on telemetry 
which revealed one 5 beat run of non-sustained ventricular 
tachycardia but concerning arrhythmias. Echocardiogram revealed 
mild aortic stenosis  and moderate mitral regurgitation with 
preserved ejection fraction. Given preserved ejection fraction 
and no concerning events on telemetry, coupled with the fact 
that these falls were all unwitnessed with questionable history, 
further cardiac investigation was deferred.

LEFT PROXIMAL HUMERUS FRACTURE
The patient has fracture on xray and large surrounding hematoma. 
There was no vascular compromise. He was seen by orthopedics 
which recommended nonoperative management with sling. He should 
follow-up with them in 2 weeks.

EARLY SATIETY/ANOREXIA
The patient had good appetite in the hospital. Abdominal 
ultrasound showed no mechanical explanation for early satiety. 
This was felt to be depression or consequence of failing 
independent living.

ANEMIA
Iron studies were unremarkable, and this is best explained by 
extensive hematoma of left arm.

LEFT LOWER EXTREMITY SWELLING
Ultrasound for DVT was negative.

MENTAL STATUS
The patient appeared alert and cooperative throughout his stay.

CODE STATUS
Formal discussion did not take place during this 
hospitalization. He would benefit from obtaining a primary care 
provider to discuss goals of care, specifically one trained in 
geriatrics. He was referred to Healthcare Associates at 
___. 

Geriatrics was consulted and assisted with discussions regarding 
making transition from independent to dependent living.

 
Medications on Admission:
None
 
Discharge Medications:
1. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO TID (3 
times a day) for 2 weeks.  
2. Oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for 2 weeks.  
3. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed.  
4. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed.  
5. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Atrial Fibrillation
Left Humerus Fracture
Anemia, Acute Blood Loss

 
Discharge Condition:
stable

 
Discharge Instructions:
___ were admitted to the hospital with falls.
___ underwent several studies which showed that ___ had moderate 
narrowing of one of your heart valves. 
___ had a fracture of your left arm.
___ should remain in a sling for ___ weeks. Please follow-up 
with orthopedics in 2 weeks at your appointment.

Your medications have changed:
Take full dose aspirin each day
___ can take tylenol for pain, and oxycodone when needed for 
severe pain. ___ should also take a stool softner with these 
medications.

If ___ develop new falls, worsening pain, or any other 
concerning symptoms, please return to the hospital.
 
Followup Instructions:
___